US08309577B2
An oven-dried, round-bottomed flask was charged with di(1H-imidazol-1-yl)methanimine (500 mg, 3.10 mmol), 2-amino-5-methoxyphenol-HCl (365 mg, 2.07 mmol), triethylamine (288 μL, 2.07 mmol), and anhydrous THF (20 ml) at ambient temperature. The resulting suspension was refluxed under N2 (g) for 20 h to give complete conversion based on LC/MS. The solvent was removed in vacuo and the residue was purified by silica gel chromatography (30-80% ethyl acetate in hexanes) to afford 6-methoxybenzo[d]oxazol-2-amine (307 mg, 1.87 mmol, 90% yield), as a brown solid. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.28 (1H, d, J=9.5 Hz), 6.92 (1H, d, J=2.4 Hz), 6.80 (1H, dd, J=8.5, 2.1 Hz), 5.28 (2H, br. s.). MS (LC/MS) R.T.=1.51; [M+H]+=165.00.

reactant | di(1H-imidazol-1-yl)methanimine | 3.10 mmol, 500 mg | N1(C=NC=C1)C(=N)N1C=NC=C1 | C7H7N5
reactant | 2-amino-5-methoxyphenol-HCl | 2.07 mmol, 365 mg | Cl.NC1=C(C=C(C=C1)OC)O
reactant | triethylamine | 2.07 mmol, 288 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 6-methoxybenzo[d]oxazol-2-amine | 1.87 mmol, 307 mg, 90% yield | COC1=CC2=C(N=C(O2)N)C=C1 | C8H8N2O2
